US06900227B2
Preparation of 4-benzyl-1-(2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl)-piperidine
2,2-Diphenyl-benzo[1,3]dioxole-5-sulfonyl chloride (93 mg, 0.25 mmol) was dissolved in pyridine (1 ml). The appropriate amine (0.25 mmol) was added and the reaction was heated to 60° C. overnight. Water was added and solids respectively oils separated. The aqueous phase was decanted and the residue was stirred with acetonitrile. A solution was obtained, which was subjected to preparative reversed phase chromatography (gradient of acetonitrile/water containing 0.1% formic acid as the eluant) to yield the product after evaporation of the eluant and drying.

reactant | 2,2-Diphenyl-benzo[1,3]dioxole-5-sulfonyl chloride | 0.25 mmol, 93 mg | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)(=O)Cl)C2=CC=CC=C2 | C19H13ClO4S
reactant | Water | O | H2O
reactant | acetonitrile water | C(C)#N.O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzyl-1-(2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl)-piperidine | C(C1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C31H29NO4S
